US04732998
3-(Phthalimido)-propyl formate
A mixture of 3-(phthalimido)-propanol (20.5 g) and formic acid (33 ml) was refluxed overnight and evaporated in vacuo to leave a yellow oil which crystallized from absolute ethanol to give colourless crystals with m.p. 68°-70° C.

reactant | 3-(phthalimido)-propanol | 20.5 g | C1(C=2C(C(N1CCCO)=O)=CC=CC2)=O | C11H11NO3
reactant | formic acid | 33 ml | C(=O)O | CH2O2
product | 3-(Phthalimido)-propyl formate | C(=O)OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H11NO4
